US04581369
To a suspension of 7.3 g of 2-methyl-5-(1-imidazolyl)-2',4',6'-trimethylbenzophenone in 50 ml of ethanol is added a solution of 1 g of sodium borohydride in 10 ml of water. After the mixture is stirred at 50° C. for 10 hours, the reaction mixture is poured into ice-cold water. The crystals precipitated are filtered off and recrystallized from ethanol to give 5.8 g of α-(2,4,6-trimethylphenyl)-2-methyl-5-(1-imidazolyl)benzenemethanol as white crystals, melting at 190°-191° C.

reactant | 2-methyl-5-(1-imidazolyl)-2',4',6'-trimethylbenzophenone | 7.3 g | CC1=C(C(=O)C2=C(C=C(C=C2C)C)C)C=C(C=C1)N1C=NC=C1 | C20H20N2O
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | α-(2,4,6-trimethylphenyl)-2-methyl-5-(1-imidazolyl)benzenemethanol | 5.8 g | CC1=C(C(=CC(=C1)C)C)C(O)C1=C(C=CC(=C1)N1C=NC=C1)C | C20H22N2O
